US07262185B2
To a solution of methyl 7-[4-(2-butoxyethoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.94 g) in THF-water (20-20 ml) was added 1N aqueous solution of sodium hydroxide (8.0 ml) at room temperature and the mixture was stirred for 20 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and to the residue was added 1N hydrochloric acid (10 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the precipitated crystals were collected by filtration. The crystals were washed with diisopropylether, to give 7-[4-(2-butoxyethoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (1.23 g) as colorless crystals.

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.94 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2S(=O)(=O)C)C(=O)OC)C1 | C25H31NO6S
reactant | sodium hydroxide | 8.0 ml | [OH-].[Na+]
solvent | THF water | 20-20 ml | C1CCOC1.O
product | 7-[4-(2-butoxyethoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 1.23 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2S(=O)(=O)C)C(=O)O)C1 | C24H29NO6S
